US08809538B2
tert-butyl (1-(1-(biphenyl-4-yl)-1-cyanoethyl)piperidin-4-yl)methylcarbamate
To tert-butyl piperidin-4-ylmethylcarbamate (0.527 g) and 1-(biphenyl-4-yl)ethanone (0.483 g) in dichloromethane (6.2 mL) was added titanium (IV) isopropoxide (0.720 mL). The reaction mixture was stirred at room temperature for 24 hours. A 1.0 mol/L solution of cyanodiethylaluminum (2.46 mL) in toluene was then added dropwise and the reaction mixture was stirred at ambient temperature for another 24 hours. It was then quenched with saturated sodium bicarbonate and diluted with dichloromethane. The biphasic mixture was filtered, and the layers of the filtrate were separated. The aqueous layer was extracted with dichloromethane, and the combined organics were dried over magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate:hexanes=85:15) to obtain the title compound (0.565 g) having the following physical data.

reactant | tert-butyl piperidin-4-ylmethylcarbamate | 0.527 g | N1CCC(CC1)CNC(OC(C)(C)C)=O | C11H22N2O2
reactant | 1-(biphenyl-4-yl)ethanone | 0.483 g | C1(=CC=C(C=C1)C(C)=O)C1=CC=CC=C1 | C14H12O
reactant | cyanodiethylaluminum | 2.46 mL | C(#N)[Al](CC)CC
solvent | dichloromethane | 6.2 mL | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | titanium (IV) isopropoxide | 0.720 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | tert-butyl (1-(1-(biphenyl-4-yl)-1-cyanoethyl)piperidin-4-yl)methylcarbamate | 0.565 g | C1(=CC=C(C=C1)C(C)(C#N)N1CCC(CC1)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C26H33N3O2
